US06884821B1
2.3 mL dimethyl carbamyl chloride was added dropwise over 40 minutes into a solution of 6.40 g crude 4-(3-ethoxy-2-isopropoxy-3-oxopropyl)-1-pyridinium oleate and 3.3 mL trimethylsilyl cyanide in dichloromethane (60 mL), followed by stirring for 11.5 hours. 10% aqueous potassium carbonate was added to the reaction solution, followed by stirring at room temperature for 30 minutes. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography, to give 3.87 g of ethyl 3-(2-cyano-4-pyridyl)-2-isopropoxypropanoate as a pale yellow oil.

reactant | dimethyl carbamyl chloride | 2.3 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | 4-(3-ethoxy-2-isopropoxy-3-oxopropyl)-1-pyridinium oleate | 6.40 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].C(C)OC(C(CC1=CC=[NH+]C=C1)OC(C)C)=O
reactant | trimethylsilyl cyanide | 3.3 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | ethyl 3-(2-cyano-4-pyridyl)-2-isopropoxypropanoate | 3.87 g | C(#N)C1=NC=CC(=C1)CC(C(=O)OCC)OC(C)C | C14H18N2O3
